US04859662
5-Methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde
A mixture of 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-methanol (4.0 g), manganese dioxide (activated) (40 g) and dioxan (225 ml) was stirred at room temperature overnight. The suspension was filtered and the solid was washed with hot chloroform (1 l). The combined filtrates were evaporated in vacuo to leave a solid (4.0 g) which was purified by FCC eluting with chloroform to give a solid which was triturated with hexane (ca. 50 ml) to give the title compound (2.99 g), m.p. 184°-188° (decomp.).

reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-methanol | 4.0 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C24H22N2O
catalyst | manganese dioxide | 40 g | [O-2].[O-2].[Mn+4]
solvent | dioxan | 225 ml | O1CCOCC1 | C4H8O2
product | 5-Methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde | 4.0 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
